US07297795B2
To a suspension of (5.13 g, 11 mmol) of 4-bromo-3-methoxyanilino-N-(2,4-dichloro-5-methoxyphenyl)-2-cyano-2-propenamide in 400 mL of acetonitrile was added 1.5 mL of methanol. The mixture was heated to reflux and phosphorous oxychloride (4.10 mL, 44.0 mmol) was added dropwise. The resulting mixture was heated at reflux for 26 hours. Additional phosphorous oxychloride (2.1 mL) and methanol (0.75 mL) were added and the mixture was heated at reflux for 21 hours. After cooling to 0-5° C. in an ice-bath, the solid was collected by filtration, washed with cold acetonitrile (100 mL) and then suspended in tetrahydrofuran (100 mL). To the tetrahydrofuran suspension was added concentrated ammonium hydroxide and the mixtures were stirred for 1 hour. Water (300 mL) was added and stirring was continued for 1 hour. The solid was collected by filtration, washed with hot water (46° C.), acetonitrile and dried in vacuo overnight to recover 2.1 g of 4-bromo-3-methoxyanilino-N-(2,4-dichloro-5-methoxyphenyl)-2-cyano-2-propenamide. The acetonitrile filtrate and washing were combined and concentrated aqueous ammonium hydroxide was added. The resulting acetonitrile mixture was stirred for 1 hour. Water was added and stirring was continued for 1 hour. The solid was collected by filtration, washed with water, ethyl acetate and ether, then dried in vacuo to provide 1.92 g (39%) of 6-bromo-4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-methoxy-3-quinolinecarbonitrile as a yellow solid, mp 256-257° C.; 1H NMR (400 MHz, DMSO-d6) δ 3.85 (s, 3H), 4.04 (s, 3H), 7.37 (s, 1H), 7.46 (s, 1H), 7.75 (s, 1H), 8.56(s, 1H), 8.89 (s, 1H), 9.93 (s, 1H); MS (ES) m/z451.9, 454.0 (M+H)+

reactant | 4-bromo-3-methoxyanilino-N-(2,4-dichloro-5-methoxyphenyl)-2-cyano-2-propenamide | 11 mmol, 5.13 g | BrC1=C(C=C(NC=C(C(=O)NC2=C(C=C(C(=C2)OC)Cl)Cl)C#N)C=C1)OC | C18H14BrCl2N3O3
reactant | methanol | 1.5 mL | CO | CH4O
reactant | phosphorous oxychloride | 44.0 mmol, 4.10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorous oxychloride | 2.1 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | methanol | 0.75 mL | CO | CH4O
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
product | 6-bromo-4-[(2,4-dichloro-5-methoxyphenyl)amino]-7-methoxy-3-quinolinecarbonitrile | 1.92 g, 39% | BrC=1C=C2C(=C(C=NC2=CC1OC)C#N)NC1=C(C=C(C(=C1)OC)Cl)Cl | C18H12BrCl2N3O2
